US08334301B2
4-(2-fluoropyridin-3-yl)-5-(phenylthio)thiophene-2-carbaldehyde
With 5-bromo-4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde (2.86 g) as a starting material, and using thiophenol (1.33 mL) and potassium carbonate (2.21 g), an operation similar to that of Reference Example 1 was performed to give the title compound as a pale-yellow oil (yield 3.11 g, yield 99%).

reactant | 5-bromo-4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde | 2.86 g | BrC1=C(C=C(S1)C=O)C=1C(=NC=CC1)F | C10H5BrFNOS
reactant | thiophenol | 1.33 mL | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 2.21 g | C([O-])([O-])=O.[K+].[K+]
product | 4-(2-fluoropyridin-3-yl)-5-(phenylthio)thiophene-2-carbaldehyde | yield 3.11 g, yield 99% | FC1=NC=CC=C1C=1C=C(SC1SC1=CC=CC=C1)C=O | C16H10FNOS2
